US04065563
5-(4-Isothiocyanophenyl)-3-(3-pyridyl)-1,2,4-oxadiazole
A solution of 5-(4-aminophenyl)-3-(3-pyridyl)-1,2,4-oxadiazole in tetrahydrofuran is reacted with thiophosgene according to Example 14 to give the title compound in 30% yield, m.p. 121°-123°.

reactant | 5-(4-aminophenyl)-3-(3-pyridyl)-1,2,4-oxadiazole | NC1=CC=C(C=C1)C1=NC(=NO1)C=1C=NC=CC1 | C13H10N4O
reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(4-Isothiocyanophenyl)-3-(3-pyridyl)-1,2,4-oxadiazole | 30% yield | N(=C=S)C1=CC=C(C=C1)C1=NC(=NO1)C=1C=NC=CC1 | C14H8N4OS
